US07902363B2
Sodium borohydride (NaBH4, 29.4 mmol) was added to a mixture of 4-[(3S)-3,7-dimethyl-6-octenyloxy]cyanobenzene (2.52 g, 9.80 mmol) and anhydrous nickel chloride (NiCl2, 9.8 mmol) in dry ethanol (20 mL). After 2 hours the reaction mixture was filtered over Celite® and the Celite® bed was rinsed with ethanol (2×10 mL). The solution was diluted with water (150 mL) and extracted with ether (3×25 mL). The combined ethereal phase was washed with water, dried over MgSO4, and the solvent was evaporated to afford an oil which was purified by column chromatography (EtOAc-hexane) to give 4-[(3S)-3,7-dimethyl-6-octenyloxy]benzylamine as a colorless oil (1.82 g, 6.97 mmol, 71.1% yield).

reactant | Sodium borohydride | 29.4 mmol | [BH4-].[Na+]
reactant | 4-[(3S)-3,7-dimethyl-6-octenyloxy]cyanobenzene | 9.80 mmol, 2.52 g | C[C@H](CCOC1=CC=C(C=C1)C#N)CCC=C(C)C | C17H23NO
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | nickel chloride | 9.8 mmol | [Ni](Cl)Cl
product | 4-[(3S)-3,7-dimethyl-6-octenyloxy]benzylamine | 6.97 mmol, 1.82 g, 71.1% yield | C[C@H](CCOC1=CC=C(CN)C=C1)CCC=C(C)C | C17H27NO
